US05326905
2. 4-[((1-methyl)cyclohexyl)methoxy]benzyl bromide
A solution of 2.2 g (10 mmol) of 4-[((1-methyl)cyclohexyl)methoxy]toluene, 1.8 g (10 mmol) of N-bromosuccinimide and 0.02 g of benzoyl peroxide in 60 ml of carbon tetrachloride was refluxed for 16 hours. The reaction was cooled to room temperature, filtered and the filtrate evaporated to give the product which was used without further purification.

reactant | 4-[((1-methyl)cyclohexyl)methoxy]toluene | 10 mmol, 2.2 g | CC1(CCCCC1)COC1=CC=C(C=C1)C | C15H22O
reactant | N-bromosuccinimide | 10 mmol, 1.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.02 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 60 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-[((1-methyl)cyclohexyl)methoxy]benzyl bromide | CC1(CCCCC1)COC1=CC=C(CBr)C=C1 | C15H21BrO
